US07855292B2
A. 4-Iodo-2-nitrobenzoic acid
4-Iodo-2-nitrotoluene (9.0 g, 34.2 mmol), KMnO4 (22.0 g, 139 mmol) and water (340 mL) were heated at reflux for 5 h. The resulting brown suspension was filtered through a pad of diatomaceous earth, washing with water. The basic filtrate was acidified with conc. HCl. The resulting solids were collected by suction filtration and dried to afford 1.86 g of the acid. The mother liquor was extracted with DCM (3×), and the combined extracts were dried (Na2SO4) and concentrated to afford an additional 0.16 g of the benzoic acid. Total yield=2.02 g (20%). 1H NMR (400 MHz, CD3OD): 8.13 (d, J=1.6, 1H), 8.01 (dd, J=8.1, 1.6, 1H), 7.50 (d, J=8.1, 1H).

reactant | 4-Iodo-2-nitrotoluene | 34.2 mmol, 9.0 g | IC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6INO2
reactant | KMnO4 | 139 mmol, 22.0 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 340 mL | O | H2O
product | 4-Iodo-2-nitrobenzoic acid | 1.86 g | IC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4INO4
